US08058441B2
(a). 1,2-dihydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester
Skraup reaction of methyl 4-aminobenzoate (5.0 g) and iodine (1.7 g) in mesityl oxide (25 ml) was performed according to the method described in example 1.

reactant | methyl 4-aminobenzoate | 5.0 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | iodine | 1.7 g | II | I2
solvent | mesityl oxide | 25 ml | O=C(C)C=C(C)C | C6H10O
product | 1,2-dihydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=CC(NC2=CC1)(C)C)C | C14H17NO2
